US07094789B2
(Step A) Synthesis of 5-bromo-4-methylisoquinoline (Intermediate 93)
4-Methylisoquinoline (0.1 ml, synthesized according to the method described in Tetrahedron. Lett. 34, 45, 7239 (1993)) was dissolved in concentrated sulfuric acid (1 ml), then added with N-bromosuccinimide (125 mg) with ice cooling and stirred for 2 hours. The reaction mixture was added with 28% aqueous ammonia (5 ml) and extracted twice with dichloromethane (10 ml for each time). The organic layer was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=50:1) to obtain the title compound (108 mg).

reactant | 4-Methylisoquinoline | CC1=CN=CC2=CC=CC=C12 | C10H9N
reactant | N-bromosuccinimide | 125 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ammonia | 5 ml | N | H3N
solvent | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
product | 5-bromo-4-methylisoquinoline | 108 mg | BrC1=C2C(=CN=CC2=CC=C1)C | C10H8BrN
